US05674468
(ii) Benzoyloxymethyl chloroformate
16-Hydroxyhexadecanoic acid (5.43 g, 19.9 mmol) was dissolved in tetrahydrofuran (190 ml) and pyridine (2.36 g, 29.9 mmol) was added. Palmitoyl chloride (5.48 g, 19.9 mmol) was dissolved in tetrahydrofuran (10 ml) and added dropwise at room temperature. After stirring at room temperature for 16 hours, the mixture was filtered and the filtrate evaporated under reduced pressure. The residue was dissolved in chloroform, washed with water (3×50 ml), and the organic phase was dried (MgSO4). After evaporating under reduced pressure, the residue was purified on a silica column, eluted with chloroform with increasing methanol concentration (from 1% to 2% methanol in chloroform) to give 8.41 g (83%) of the title compound. 1H NMR (300 MHz, CDCl3): δ0.85 (t, 3H, CH3), 1.20-1.35 (s, 46H, --CH2 --), 1.55-1.70 (m, 6H, --CH2 --), 2.25 (t, 2H, --CH2 --C(O)--O), 2.45 (t, 2H, --CH2 --COOH), 4.05 (t, 2H, --O--CH2). 13C NMR (75 MHz, CDCl3): δ14.01, 22.57, 24.10, 24.91, 25.82, 28.53, 28.75, 28.94, 29.08, 29.15, 29.25, 29.36, 29.54, 31.81, 34.29, 35.16, 64.27, 76.48, 76.90, 77.10, 77.32, 169.50, 173.91.

reactant | 16-Hydroxyhexadecanoic acid | 19.9 mmol, 5.43 g | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | pyridine | 29.9 mmol, 2.36 g | N1=CC=CC=C1 | C5H5N
reactant | Palmitoyl chloride | 19.9 mmol, 5.48 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Benzoyloxymethyl chloroformate | 8.41 g, 83% | ClC(=O)OCOC(C1=CC=CC=C1)=O | C9H7ClO4
